US07566724B2
In the same manner as in Example 1, 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester (83.3 mg) was reacted with N-(4-methoxybenzyl)-N-(4-bromophenyl)pyrimidin-2-amine (102.4 mg) to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-((4-methoxy-benzyl)-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester (102.4 mg). Column chromatography (silica gel, eluent: hexane/ethyl acetate=3/1→1/3) and thin layer chromatography (silica gel, mobile phasae: cyclohexane/ethyl acetate=1/5) were used for purification.

reactant | 2-(2,6-dichlorobenzamido)pent-4-enoic acid methyl ester | 83.3 mg | COC(C(CC=C)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C13H13Cl2NO3
reactant | N-(4-methoxybenzyl)-N-(4-bromophenyl)pyrimidin-2-amine | 102.4 mg | COC1=CC=C(CN(C2=NC=CC=N2)C2=CC=C(C=C2)Br)C=C1 | C18H16BrN3O
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-((4-methoxy-benzyl)-pyrimidin-2-ylamino)phenyl]pent-4-enoic acid methyl ester | 102.4 mg | COC(C(C\C=C\C1=CC=C(C=C1)N(C1=NC=CC=N1)CC1=CC=C(C=C1)OC)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C31H28Cl2N4O4
